US08471005B2
N-{2-[2-(1-Methanesulfonyl-1,2,3,4-tetrahydro-quinolin-7-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide was prepared from Trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester and 1-methanesulfonyl-1,2,3,4-tetrahydro-quinolin-7-ylamine in an analogous manner to Example 1061. Product isolated as a yellow foam (61 mg, 55%). LCMS (m/e) 527 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.73 (s, 1H), 7.94-7.87 (m, 1H), 7.68-7.62 (m, 1H), 7.56-7.44 (m, 3H), 7.40 (dd, 1H, J=1.7 and 8.3 Hz), 7.00 (d, 1H, J=4.7 Hz), 6.96 (d, 1H, J=8.3 Hz), 6.87 (d, 1H, J=4.7 Hz), 6.79 (bs, 1H), 3.82-3.73 (m, 2H), 3.13 (s, 3H), 2.82-2.74 (m, 2H), 2.78 (s, 3H), 2.64 (s, 3H), 2.01-1.92 (m, 2H).

reactant | Trifluoro-methanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | CS(=O)(=O)N(C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F)C | C15H13F3N4O5S2
reactant | 1-methanesulfonyl-1,2,3,4-tetrahydro-quinolin-7-ylamine | CS(=O)(=O)N1CCCC2=CC=C(C=C12)N | C10H14N2O2S
product | N-{2-[2-(1-Methanesulfonyl-1,2,3,4-tetrahydro-quinolin-7-ylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide | CS(=O)(=O)N1CCCC2=CC=C(C=C12)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C24H26N6O4S2
